US07405231B2
ii) (2-[1,2,3] Triazol-1-yl-ethyl)-(4-{2-[(E)-2-(4-trifluoromethanesulfinyl-phenyl)-vinyl]-oxazol-4ylmethoxy}-benzyl)-amine
A solution of 120 mg (0.28 mmol) 4-{2-[(E)-2-(4-trifluoromethanesulfinyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-benzaldehyde, 31 mg (0.28 mmol) (2-[1,2,3]triazol-1-yl-ethyl)-amine and 5 mg toluene-4-sulfonic acid in 10 ml methanol was stirred at room temperature for 1 hour, then 18 mg (0.28 mmol) sodium cyanoborohydride was added and the mixture stirred over night. After evaporation and chromatography on silica with ethyl acetate/methanolic ammonia 85:15, the title compound was isolated as light yellow solid melting at 111-113° C.; yield 89 mg (60%).

reactant | 4-{2-[(E)-2-(4-trifluoromethanesulfinyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-benzaldehyde | 0.28 mmol, 120 mg | FC(S(=O)C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=O)C=C1)(F)F | C20H14F3NO4S
reactant | (2-[1,2,3]triazol-1-yl-ethyl)-amine | 0.28 mmol, 31 mg | N1(N=NC=C1)CCN | C4H8N4
reactant | toluene-4-sulfonic acid | 5 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium cyanoborohydride | 0.28 mmol, 18 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | (2-[1,2,3] Triazol-1-yl-ethyl)-(4-{2-[(E)-2-(4-trifluoromethanesulfinyl-phenyl)-vinyl]-oxazol-4ylmethoxy}-benzyl)-amine | N1(N=NC=C1)CCNCC1=CC=C(C=C1)OCC=1N=C(OC1)\C=C\C1=CC=C(C=C1)S(=O)C(F)(F)F | C24H22F3N5O3S
